US05223506
Using the procedure of Example 1, 4,6-dimethoxy-5-methoxymethoxyindan-1-one (100 mg, 0.4 mmol) is reacted with 6[[(4-methylphenyl)imino]methyl]-1,3-benzodioxol-5-amine (101 mg, 0.4 mmol) to yields 7,9-dimethoxy-8-methoxymethoxy-10H-1,3-dioxolo[4,5-g]indeno[1,2-b]quinoline (120 mg, 79% of theory). This material was used directly in part (B).

reactant | 4,6-dimethoxy-5-methoxymethoxyindan-1-one | 0.4 mmol, 100 mg | COC1=C2CCC(C2=CC(=C1OCOC)OC)=O | C13H16O5
reactant | 6[[(4-methylphenyl)imino]methyl]-1,3-benzodioxol-5-amine | 0.4 mmol, 101 mg | CC1=CC=C(C=C1)N=CC=1C(=CC2=C(OCO2)C1)N | C15H14N2O2
product | 7,9-dimethoxy-8-methoxymethoxy-10H-1,3-dioxolo[4,5-g]indeno[1,2-b]quinoline | 120 mg, 79% | COC=1C(=C(C=2CC=3C(=NC=4C=C5C(=CC4C3)OCO5)C2C1)OC)OCOC | C21H19NO6
